US07183306B2
A mixture of N′-[5-[4-(hydroxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (121.9 mg), 2-(tert-butyl-dimethylsilyloxy)ethyl bromide (166 mg), and K2CO3 (95.6 mg) in DMF (1.5 ml) was stirred at 75° C. for 7 hours. 2-(tert-butyldimethylsilyloxy)ethyl bromide (83 mg) and KI (57.4 mg) was added to the reaction mixture, and the mixture was stirred at 75° C. overnight. The mixture was allowed to cool to ambient temperature, and was partitioned between ethyl acetate and H2O. The aqueous layer was reextracted with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by 5% MeOH/CHCl3. The separated silica gel was extracted with 10% MeOH/CHCl3 and the solvent was evaporated in vacuo to give N′-[5-[4-(2-hydroxyethoxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (115 mg) as an amorphous powder. 84.3 mg of amorphous powder was crystallized from AcOEt-IPE to give N′-[5-[4-(2-hydroxyethoxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (79.5 mg) as a white powder.

reactant | N′-[5-[4-(hydroxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea | 121.9 mg | OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)NC(N(C)C)=O | C19H20N4O3
reactant | 2-(tert-butyl-dimethylsilyloxy)ethyl bromide | 166 mg | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
reactant | K2CO3 | 95.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(tert-butyldimethylsilyloxy)ethyl bromide | 83 mg | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | N′-[5-[4-(2-hydroxyethoxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea | 115 mg | OCCOC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)NC(N(C)C)=O | C21H24N4O4
